US06174889B1
A solution of 1-benzyl-5-nitroindole (0.51 g, 0.02 mol) in a mixture of ethyl acetate (25 ml) and methanol (25 ml) was carefully added to 10% palladium on charcoal (45 mg). The resulting suspension was stirred at room temperature under an atmosphere of hydrogen. When the reaction was complete (indicated by tic or calculated uptake of hydrogen) the suspension was filtered through a pad of Hyflo™, and the filtrate evaporated to dryness to give 5-amino-1-benzylindole (0.40 g, 91%) as an off-white solid; m.p. 66-68° C.; δH [2H6]-DMSO 7.30-7.12 (6H, m, 2-H, 2″-H, 3″-H, 4″-H, 5″-H, 6″-H), 7.08 (1H, d, J 8, 7-H), 6.70 (1H, s, 4-H), 6.49 (1H, d, J 8, 6-H), 6.18 (1H, s, 3-H), 5.28 (2H, s, CH2), 4.38 (2H, br s, NH2).

reactant | 1-benzyl-5-nitroindole | 0.02 mol, 0.51 g | C(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)[N+](=O)[O-] | C15H12N2O2
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 25 ml | CO | CH4O
catalyst | palladium on charcoal | 45 mg | [Pd] | Pd
product | 5-amino-1-benzylindole | 0.40 g, 91% | NC=1C=C2C=CN(C2=CC1)CC1=CC=CC=C1 | C15H14N2
